US06924278B2
A tetrahydrofuran solution of dimethylamine (2 M, 0.32 ml) was added to a mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-carboxymorpholino)-2-butynyl]piperazine (0.13 g), 1-hydroxybenzotriazole (85 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.12 g) in N,N-dimethylformamide (5 ml), and the whole was stirred at room temperature for 5 hours. After the solvent was removed by evaporation, dichloromethane and sodium hydrogen carbonate solution were added to the residue. The organic layer was separated, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with 3% of methanol in dichloromethane as an eluent to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-dimethylcarbamoylmorpholino)-2-butynyl]piperazine. It was dissolved in ethyl acetate (10 ml) and the solution was added 4N hydrogen chloride in ethyl acetate (0.26 ml). The mixture was evaporated in vacuo and the residue was triturated with a mixture of ethyl acetate and isopropyl ether to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-dimethylcarbamoylmorpholino)-2-butynyl]piperazine dihydrochloride (0.12 g) as a solid.

reactant | dimethylamine | 2 M, 0.32 ml | CNC | C2H7N
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-carboxymorpholino)-2-butynyl]piperazine | 0.13 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@@H](COCC2)C(=O)O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C31H33F6N3O4
reactant | 1-hydroxybenzotriazole | 85 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.12 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-((3S)-3-dimethylcarbamoylmorpholino)-2-butynyl]piperazine | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2[C@@H](COCC2)C(N(C)C)=O)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C33H38F6N4O3
